US04198420
A solution of 2.4 g of 10,11-dihydro-11-oxospiro[dibenz(b,f)thiepin-10,4'-piperidine], free base of Example 3, in 20 ml of tetrahydrofuran is added dropwise to a refluxing slurry of 1.5 g of lithium aluminum hydride in 20 ml of tetrahydrofuran. After total addition, stirring is continued at reflux for an addition 4 hours and then at ambient temperature for 16 hours. Thereafter, the reaction mixture is decomposed by adding sequentially 1.7 ml of water with 1.7 ml of 15% sodium hydroxide and 5.2 ml of water. The diluted mixture is filtered and the filtrate is concentrated under vacuum, providing 10,11-dihydro-11-hydroxyspiro[dibenz(b,f)thiepin-10,4'-piperidine].

reactant | 10,11-dihydro-11-oxospiro[dibenz(b,f)thiepin-10,4'-piperidine] | 2.4 g | O=C1C2=C(SC3=C(C=CC=C3)C13CCNCC3)C=CC=C2 | C18H17NOS
reactant | lithium aluminum hydride | 1.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1.7 ml | O | H2O
reactant | sodium hydroxide | 1.7 ml | [OH-].[Na+]
reactant | water | 5.2 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 10,11-dihydro-11-hydroxyspiro[dibenz(b,f)thiepin-10,4'-piperidine] | OC1C2=C(SC3=C(C=CC=C3)C13CCNCC3)C=CC=C2 | C18H19NOS
